US06924284B2
Synthesis of 5-p-tolyl tetrazole:
Tolunitrile (103 mg, 1.0 mmol) was refluxed with NH4Cl (70 mg, 1.3 mmol), and NaN3 (85 mg, 1.3 mmol) in 3 mL of DMF overnight. The resulting 5-p-tolyl tetrazole was purified via RP-HPLC.

reactant | Tolunitrile | 1.0 mmol, 103 mg | C=1(C(=CC=CC1)C#N)C | C8H7N
reactant | NH4Cl | 1.3 mmol, 70 mg | [NH4+].[Cl-]
reactant | NaN3 | 1.3 mmol, 85 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-p-tolyl tetrazole | C1(=CC=C(C=C1)C1=NN=NN1)C | C8H8N4
